US07842696B2
4-phenyl-thiophene-2-carboxaldehyde (150 mg, 0.80 mmol) was dissolved in acetone-water mixture (2:1) (3 mL) and cooled to 0° C. To this reaction mixture was added sulphamic acid (232 mg, 2.38 mmol) and sodium chlorite (288 mg, 3.18 mmol) dissolved in minimum amount of water. The resulting reaction mixture was allowed to stir at room temperature for half an hour. The reaction mixture was then diluted with water and extracted with ethyl acetate. The organic layer was washed with brine solution, dried over sodium sulphate and concentrated to afford 100 mg (62.5% yield) of 4-Phenyl-thiophene-2-carboxylic acid.

reactant | 4-phenyl-thiophene-2-carboxaldehyde | 0.80 mmol, 150 mg | C1(=CC=CC=C1)C=1C=C(SC1)C=O | C11H8OS
reactant | sulphamic acid | 2.38 mmol, 232 mg | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 3.18 mmol, 288 mg | Cl(=O)[O-].[Na+]
solvent | acetone water | 3 mL | CC(=O)C.O
solvent | water | O | H2O
product | 4-Phenyl-thiophene-2-carboxylic acid | 100 mg, 62.5% yield | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)O | C11H8O2S
